US06358978B1
0.18 g of 5-(1-amino-3-phenylpropyl)-[1,3,4]oxadiazol-2-ylamine was dissolved in 10 ml of dry dimethylformamide at RT, treated with 200 mg of 2-pyridin-4-yl-1H-benzimidazole-5-carboxylic acid, 270 mg of TOTU, and 0.12 ml of diisopropylamine, and stirred at RT for 4 h. The reaction mixture was concentrated, and the residue was taken up in ethyl acetate and washed successively with water, saturated sodium hydrogencarbonate solution, water, and saturated sodium chloride solution. The organic phase was dried over magnesium sulfate, filtered, and concentrated. The residue was stirred with methyl tert-butyl ether, filtered off, and dried under high vacuum. 2-Pyridin4-yl-1H-benzimidazole-5-carboxylic acid [1-(5-amino-[1,3,4]oxadiazol-2-yl)-3-phenylpropyl]amide, which melts at 160° C. with decomposition, is obtained.

reactant | 5-(1-amino-3-phenylpropyl)-[1,3,4]oxadiazol-2-ylamine | 0.18 g | NC(CCC1=CC=CC=C1)C1=NN=C(O1)N | C11H14N4O
reactant | 2-pyridin-4-yl-1H-benzimidazole-5-carboxylic acid | 200 mg | N1=CC=C(C=C1)C1=NC2=C(N1)C=CC(=C2)C(=O)O | C13H9N3O2
reactant | TOTU | 270 mg | [B-](F)(F)(F)F.CCOC(=O)C(=NOC(=[N+](C)C)N(C)C)C#N
reactant | diisopropylamine | 0.12 ml | C(C)(C)NC(C)C | C6H15N
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 2-Pyridin4-yl-1H-benzimidazole-5-carboxylic acid [1-(5-amino-[1,3,4]oxadiazol-2-yl)-3-phenylpropyl]amide | NC1=NN=C(O1)C(CCC1=CC=CC=C1)NC(=O)C1=CC2=C(NC(=N2)C2=CC=NC=C2)C=C1 | C24H21N7O2
